US06867320B2
Synthesis of 2-amino-7-bromonaphthalene (Intermediate 26)
According to the procedure described in the aforementioned reference [L. C. Anderson et al., Journal of the American Chemical Society (J. Am. Chem. Soc.), vol. 65, p.241, 1943], 2-bromo-7-hydroxynaphthalene (2.23 g, MAYB) was added with 30% aqueous ammonia (30 ml) and ammonium sulfite monohydrate (2.69 g, WAKO) and stirred in a shield tube at 150° C. for 27 hours. The reaction mixture was added with ethyl acetate (90 ml) for extraction and then added with 1 N aqueous hydrochloric acid (1.5 l). The aqueous layer was separated, washed with ethyl acetate, then neutralized by adding 5 N aqueous sodium hydroxide (300 ml) under ice cooling and extracted with ethyl acetate again. The organic layer was washed with saturated brine and dried, and then the solvent was evaporated under reduced pressure to obtain the title compound (Intermediate 26, 1.00 g).

reactant | 2-bromo-7-hydroxynaphthalene | 2.23 g | BrC1=CC2=CC(=CC=C2C=C1)O | C10H7BrO
reactant | ammonia | 30 ml | N | H3N
reactant | ammonium sulfite monohydrate | 2.69 g | O.S(=O)([O-])[O-].[NH4+].[NH4+]
reactant | hydrochloric acid | 1 N, 1.5 l | Cl | ClH
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-7-bromonaphthalene | 1.00 g | NC1=CC2=CC(=CC=C2C=C1)Br | C10H8BrN
